US05691321
tert-Butyl 4-cyclohexanecarboxylate
A solution of 48.2 g of dicyclohexylcarbodiimide in 100 ml of methylene chloride is added dropwise at room temperature with stirring to a solution of 27.7 g (0.2 mol) of 4-cyclohexanecarboxylic acid, 28.9 g of tert-butanol and 24 g of 4-dimethylaminopyrimidine in 200 ml of methylene chloride. The mixture is stirred for 24 hours at room temperature, dicyclohexylurea is removed by filtration, and the product is extracted twice by stirring with water. The organic phase is dried and concentrated. The crude product is purified by distillation on a thin-film evaporator (150°/0.4 mm). This gives 20 g (51.8% of theory) of a colorless oil.

reactant | dicyclohexylcarbodiimide | 48.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-cyclohexanecarboxylic acid | 0.2 mol, 27.7 g | C1CCC(CC1)C(=O)O | C7H12O2
reactant | tert-butanol | 28.9 g | C(C)(C)(C)O | C4H10O
reactant | 4-dimethylaminopyrimidine | 24 g | CN(C1=NC=NC=C1)C | C6H9N3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-cyclohexanecarboxylate | C1CCC(CC1)C(=O)OC(C)(C)C | C11H20O2
